US05399703
Step 4 2-(2-Aminophenylthio)benzonitrile
In a mixture of 40 ml of concentrated hydrochloric acid, 60 ml of methanol and 40 ml of N,N-dimethylformamide was suspended 2-(2-nitrophenylthio)benzonitrile followed by addition of 8.64 g of powdered iron en bloc, and the mixture was stirred at 60° C. for 1 hour. The reaction mixture was then diluted with water and the precipitate was extracted with ether. This extract was washed with aqueous sodium hydrogen carbonate solution and water in that order and dried over magnesium sulfate. The solvent was then distilled off and the residue was subjected to column chromatography (Wakogel C200) using ethyl acetate-n-hexane (1:4) as the eluent. The crystals obtained were recrystallized from ethyl acetate-n-hexane to give 4.8 g of the title compound as white crystals, m.p. 86°-89° C.

reactant | methanol | 60 ml | CO | CH4O
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | 2-(2-nitrophenylthio)benzonitrile | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H8N2O2S
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | O | H2O
catalyst | iron | 8.64 g | [Fe] | Fe
product | 2-(2-Aminophenylthio)benzonitrile | 4.8 g | NC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H10N2S
